US04421690
A mixture of 2.37 g (0.0033 mol) of [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol, 7 mL of pyridine and 1.27 g (0.0067 mol) of p-toluenesulfonyl chloride was stirred at 0° C. for 18 hr. The mixture was quenched with ice chips. The mixture was then poured into water and extracted with methylene chloride. The organic phase was washed with 10% aqueous sulfuric acid and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to yield oily [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate), [α]D20 +6° (c 1, CHCl3).

reactant | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol | 0.0033 mol, 2.37 g | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)CO)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68F2O7
reactant | p-toluenesulfonyl chloride | 0.0067 mol, 1.27 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CCC(C(C)(C)OC(C)OCC)(F)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C48H74F2O9S
